US05256683
2-(4-Chlorobenzylidene)-6-methylcyclohexanone (7.0 g), prepared above, and then methyl iodide (5.1 g) are added successively to a reaction medium prepared from toluene (25 cc), tert-amyl alcohol (3.6 cc) and sodium hydride (1.35 g of 60% strength dispersion in oil) and heated to 45° C. The mixture is brought to reflux (1 h), poured into water and extracted with ethyl acetate. After drying and concentration, the residue is recrystallized in methanol to give 2-(4-chlorobenzylidene)-6,6-dimethylcyclohexanone (4.7 g), m.p. 92°.

reactant | 2-(4-Chlorobenzylidene)-6-methylcyclohexanone | 7.0 g | ClC1=CC=C(C=C2C(C(CCC2)C)=O)C=C1 | C14H15ClO
reactant | methyl iodide | 5.1 g | CI | CH3I
reactant | tert-amyl alcohol | 3.6 cc | C(C)(C)(CC)O | C5H12O
reactant | sodium hydride | 1.35 g | [H-].[Na+]
solvent | water | O | H2O
solvent | toluene | 25 cc | C1(=CC=CC=C1)C | C7H8
product | 2-(4-chlorobenzylidene)-6,6-dimethylcyclohexanone | 4.7 g | ClC1=CC=C(C=C2C(C(CCC2)(C)C)=O)C=C1 | C15H17ClO
